US08975254B2
a) 3-isopropyl-1,2,4-oxadiazole-5-carboxylic acid
The title compound was prepared from ethyl 3-isopropyl-1,2,4-oxadiazole-5-carboxylate (0.4 g, 2.17 mmol) and sodium hydroxide solution (6 mL) using the method of Example 225(b). Yield 0.25 g. 1H NMR (400 MHz; D2O): δ 1.33 (d, 6H), 3.17 (m, 1H).

reactant | ethyl 3-isopropyl-1,2,4-oxadiazole-5-carboxylate | 2.17 mmol, 0.4 g | C(C)(C)C1=NOC(=N1)C(=O)OCC | C8H12N2O3
reactant | sodium hydroxide | 6 mL | [OH-].[Na+]
product | 3-isopropyl-1,2,4-oxadiazole-5-carboxylic acid | C(C)(C)C1=NOC(=N1)C(=O)O | C6H8N2O3
